US09108938B2
To a solution of 2-cyclopropylpyrimidine-5-carbaldehyde (2 g, 13.5 mmol) and TMSCN (2.68 g, 27 mmol) in AcOH (30 mL) was added 4,4-difluoropiperidine hydrochloride (3.1 g, 13.5 mmol), followed by AcONa (2.66 g, 32.4 mg). The mixture was stirred at 30° C. for overnight. The solvent was removed under reduced pressure and saturated NaHCO3 (aq) was added to the mixture to pH=8. The resulting mixture was extracted with EtOAc (3×100 mL). The organic layer was dried over Na2SO4, filtered and concentrated in vacuum to give the 2-(2-cyclopropylpyrimidin-5-yl)-2-(4,4-difluoropiperidin-1-yl)acetonitrile as a light red solid (3.5 g, 93%), which was used directly for next step without further purification. 1H NMR (CDCl3 400 MHz): δ 8.69 (s, 2H), 4.88 (s, 1H), 2.73-2.70 (t, J=5.5 Hz, 4H), 2.34-2.27 (m, 1H), 2.11-2.00 (m, 4H), 1.19-1.13 (m, 4H).

reactant | 2-cyclopropylpyrimidine-5-carbaldehyde | 13.5 mmol, 2 g | C1(CC1)C1=NC=C(C=N1)C=O | C8H8N2O
reactant | TMSCN | 27 mmol, 2.68 g | [Si](C)(C)(C)C#N | C4H9NSi
reactant | 4,4-difluoropiperidine hydrochloride | 13.5 mmol, 3.1 g | Cl.FC1(CCNCC1)F
reactant | AcONa | 2.66 g | C(=O)(C)O[Na]
solvent | AcOH | 30 mL | CC(=O)O | C2H4O2
product | 2-(2-cyclopropylpyrimidin-5-yl)-2-(4,4-difluoropiperidin-1-yl)acetonitrile | 3.5 g, 93% | C1(CC1)C1=NC=C(C=N1)C(C#N)N1CCC(CC1)(F)F | C14H16F2N4
